US05891899
Ethyl 2-(4-cyanobenzoyl)-2-(9H-thioxanthen-9-yl)acetate Ethyl-4-cyanobenzoyl acetate (6 g, 28 mmol) and 9-hydroxy thioxanthene (6.6 g, 31 mmol) were mixed in acetic acid (50 ml) and ethanol (50 ml) using the procedure described in Example 3 (ii) to give ethyl 2-(4-cyanobenzoyl)-2-(9H-thioxanthen-9-yl)acetate as a pale yellow solid.

reactant | Ethyl 2-(4-cyanobenzoyl)-2-(9H-thioxanthen-9-yl)acetate Ethyl-4-cyanobenzoyl acetate | 28 mmol, 6 g | C(C)OC(CC(C1=CC=C(C=C1)C#N)=O)=O.C(#N)C1=CC=C(C(=O)C(C(=O)OCC)C2C3=CC=CC=C3SC=3C=CC=CC23)C=C1
reactant | 9-hydroxy thioxanthene | 31 mmol, 6.6 g | OC1C2=CC=CC=C2SC=2C=CC=CC12 | C13H10OS
reactant | ethanol | 50 ml | C(C)O | C2H6O
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | ethyl 2-(4-cyanobenzoyl)-2-(9H-thioxanthen-9-yl)acetate | C(#N)C1=CC=C(C(=O)C(C(=O)OCC)C2C3=CC=CC=C3SC=3C=CC=CC23)C=C1 | C25H19NO3S
